* PSpice Model Editor - Version 16.6.0
*$
* TPS613222A
*****************************************************************************
*  (C) Copyright 2017 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
** Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: TPS613222A
* Date: 17APR2018
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.2.0.P001
* EVM Order Number:
* EVM Users Guide:
* Datasheet: SLVSDY5 –JAN 2018
*
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web.
*
*****************************************************************************
*
* Model Usage Notes:
* The following features are modelled,
* 1. VIN and VOUT UVLO
* 2. Over current limit
* 3. Startup modes- fixed freq oscillator and then error amplifier driven
*
* The following features are not modelled,
* 1. Input and quiescent current of the part have not been modelled.
* 2. Temperature effects have not been modelled.
* 3. GND pin is internally connected to 0V and model doesn't support inverting topology.
*****************************************************************************
.SUBCKT TPS613222A_TRANS SW VOUT GND
V_V7         N17091783 0 1.95
X_U69         FB N16779205 N16779207 COMP_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
C_C8         0 N16781109  1n  TC=0,0
V_V1         N16778516 0 5.8
X_U3         VOUT OVP_TH N16778451 COMP_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
R_R55         N17185979 VIN_INT  50k
E_ABM15         N16846666 0 VALUE {
+  IF(V(PG)>0.5,IF(V(VIN_INT)-V(VOUT)>=400m,1,0),0)    }
X_U666         PASS_THROUGH_EN N17097586 PT_CTL AND2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
C_UTOFF_C2         UTOFF_TOFF_RAMP 0  1.2n
X_UTOFF_U17         COMP_INV UTOFF_TOFFMINSET UTOFF_N01195 OR2_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
X_UTOFF_U20         UTOFF_N01195 UTOFF_N02038 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_UTOFF_U18         UTOFF_N07187 COMP_INV NMOS_ON PMOS_ON srlatchrhp_basic_gen
+  PARAMS: VDD=1 VSS=0 VTHRESH=0.5
V_UTOFF_V2         UTOFF_N00169 0 2.5
X_UTOFF_U3         PMOS_ON UTOFF_N02210 BUF_DELAY_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5 DELAY=20n
G_UTOFF_ABM2I1         UTOFF_N00169 UTOFF_N00849 VALUE { ((V(VOUT)
+  -V(VIN_INT))*2.67m+1.5m)    }
X_UTOFF_U22         UTOFF_N02210 NMOS_ON UTOFF_N01354 UTOFF_N00399
+  srlatchrhp_basic_gen PARAMS: VDD=1 VSS=0 VTHRESH=0.5
X_UTOFF_U2         UTOFF_N00492 UTOFF_TOFF_RAMP UTOFF_TOFFMINSET COMP_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=0.5
X_UTOFF_U23         0 UTOFF_TOFF_RAMP d_d1 PARAMS:
X_UTOFF_U16         UTOFF_TOFF_RAMP UTOFF_N00169 d_d1 PARAMS:
X_UTOFF_S1    UTOFF_N00404 0 UTOFF_TOFF_RAMP 0 TOFF_MIN_UTOFF_S1
V_UTOFF_V1         UTOFF_N00492 0 1.5
X_UTOFF_U21         COMP_OUT UTOFF_N02038 UTOFF_N07225 AND2_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
X_UTOFF_U1         UTOFF_N00399 UTOFF_N00404 BUF_DELAY_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5 DELAY=20n
X_UTOFF_S2    UTOFF_N01354 0 UTOFF_N00849 UTOFF_TOFF_RAMP TOFF_MIN_UTOFF_S2
X_UTOFF_U86         ZC UTOFF_N07225 UTOFF_N07187 OR2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
X_U665         FB N17091783 N17091277 COMP_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
R_R2         N16778516 OVP_TH  100k TC=0,0
E_ABM18         N17109397 0 VALUE { IF(V(VIN_INT)<(V(VO)+100m),1,0)    }
V_V8         EN_CTL 0 5
V_V6         N16781476 0 10m
C_C7         VIN_INT 0  1n IC=2.5
C_CFF         FB N167786661  300f  TC=0,0
R_R3         N17091277 PG1  20 TC=0,0
C_C1         0 OVP_HI  1n  TC=0,0
R_R56         N167786661 VOUT_INT  200k
X_U76         OVP_HI OVP_HI_INV INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U670         BLNK N16781805 N16781713 AND2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U75         N16926679 ZCB N16853839 AND2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U73         N16776687 PT_CTL GATE_P OR2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U668         N16781109 GATE_P d_d1 PARAMS:
X_U657         N16781713 COMP_OUT ZC ZCB srlatchrhp_basic_gen PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5
X_U71         N16853839 EN_CTL OVP_HI_INV N16776687 AND3_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
E_E2         VOUT_INT 0 VOUT 0 1
X_U77         PMOS_ON SW_EN N16926679 AND2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
G_ABMII1         OVP_TH 0 VALUE { IF(V(OVP_HI)>0.5,1u,0)    }
R_R52         0 GND  1m TC=0,0
R_R22         0 FB  2.48Meg
X_U78         NMOS_ON SW_EN N16863473 AND2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U669         N16781109 BLNK BUF_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=0.5
R_R1         N16778451 OVP_HI  1 TC=0,0
X_U79         N16846666 N16847172 N17097586 PT_CTL_INV srlatchrhp_basic_gen
+  PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABM13         N16779205 0 VALUE { IF(V(PG) < 0.5,1.2,1.19)    }
C_C4         0 PG1  1n  TC=0,0
E_E1         N17185979 0 SW GND 1
C_C3         0 VO  1n  TC=0,0
V_U5_V5         U5_N01819 0 2
C_U5_C12         U5_N01899 0  12n IC=0
X_U5_U29         U5_N01661 SW_EN INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
G_U5_ABMII9         0 U5_N01773 VALUE { IF(V(U5_N01661) < 0.5,
+  LIMIT(-0.5m*V(VIN_INT)/(V(VOUT)+1u), -5m, 0),0)    }
C_U5_C9         0 U5_N01661  1n IC=0
R_U5_R28         U5_N01673 U5_N01665  10
X_U5_U28         U5_N01661 U5_N01773 d_d PARAMS:
V_U5_V14         U5_N56693 0 1.6
X_U5_U672         VOUT U5_N56693 U5_HYS COMP_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
X_U5_U64         U5_BURST_EN U5_N01943 U5_N01673 AND2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
X_U5_U26         U5_N01899 U5_N01819 d_d PARAMS:
X_U5_U63         SW_EN U5_HYS U5_N01527 AND2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U5_S18    U5_N01665 0 U5_N01899 0 BURST_ENABLE_U5_S18
X_U5_U31         ZCB U5_N01567 INV_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
G_U5_ABMII5         U5_N02197 0 VALUE { IF(V(U5_N02283) >0.5, 2u,0)    }
X_U5_U66         U5_SET U5_RESET U5_BURST_EN N01657 srlatchrhp_basic_gen
+  PARAMS: VDD=1 VSS=0 VTHRESH=0.5
X_U5_U32         0 U5_N01773 d_d PARAMS:
V_U5_V13         U5_N02197 0 1Vdc
E_U5_ABM14         U5_N41524 0 VALUE { IF(V(U5_N01661)<0.5,3,2.9)    }
G_U5_ABMII8         0 U5_N01899 VALUE { IF(V(U5_BURST_EN) >0.5,
+  0.5m*V(VIN_INT)/V(VOUT),0)    }
X_U5_U67         U5_N01843 U5_N01773 U5_N02289 AND2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
R_U5_R31         U5_N41943 U5_N01661  20
X_U5_U27         U5_N01661 U5_N01843 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
C_U5_C5         0 U5_SET  1n IC=0
C_U5_C13         U5_N01773 0  12n
R_U5_R26         U5_N01493 U5_SET  {50u/0.693n}
X_U5_U670         U5_N01567 U5_HYS SW_EN U5_N01493 AND3_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
X_U5_U671         FB U5_N41524 U5_N41943 COMP_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
X_U5_U30         U5_N01527 U5_RESET INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U5_U12         U5_SET U5_N01493 d_d PARAMS:
X_U5_U68         U5_N01673 U5_N02289 U5_N02283 OR2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
C_U5_C7         0 U5_N01665  1n IC=0
X_U5_U25         U5_N01899 U5_N01943 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
R_R57         GATE_P N16781109  40 TC=0,0
R_R49         0 ZCB  1e8 TC=0,0
V_V9         PASS_THROUGH_EN 0 {PASSTHR_EN}
X_U70         N16863473 EN_CTL OVP_HI_INV GATE_N AND3_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
R_R11         FB VOUT_INT  {2.48Meg*( VOUT_SET/1.24 -1)}
X_S1    VVV 0 VOUT VO TPS613222_S1
X_U658         N16781476 ISENSE N16781805 COMP_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
E_ABM19         VVV 0 VALUE { IF(V(PG)>0.5 &
+  V(PG1)<0.5,IF(V(VIN_INT)-V(VOUT)>=400m,1,0),0)    }
X_U62         N16779207 EN_CTL PG AND2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U63         N17109397 PT_CTL N16847172 AND2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
R_u3_R2         u3_N17196052 u3_VIN_UVLO  1 TC=0,0
X_u3_U114         0 u3_RAMP d_d1 PARAMS:
X_u3_S6    u3_N17182331 0 SW_INT 0 DRIVER_u3_S6
X_u3_U121         u3_OSC_R u3_N17188700 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
V_u3_V26         u3_N17183729 0 1
X_u3_U85         u3_OSC_EN u3_OSC u3_N17182331 AND2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
V_u3_V30         u3_N17188785 0 10m
X_u3_U111         u3_N17183953 u3_RAMP u3_OSC COMP_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5
X_u3_U15         u3_SW_NODE u3_N17181906 d_d1 PARAMS:
E_u3_ABM25         u3_ISENSE 0 VALUE { ( V(u3_ISENSE_L)
+ +V(u3_ISENSE_U) )    }
X_u3_U115         u3_N17183930 u3_N17183762 BUF_DELAY_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5 DELAY=20n
X_u3_U119         VOUT u3_N17188417 u3_N17188372 u3_OSC_R COMPHYS_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=0.5
C_u3_C1         0 u3_VIN_UVLO  1n  TC=0,0
X_u3_S3    u3_SW_N 0 u3_N17182368 0 DRIVER_u3_S3
X_u3_U79         GATE_P u3_N17182440 u3_GATE_P_INT AND2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
X_u3_U122         VOUT u3_N17188830 u3_N17188785 u3_VINP75 COMPHYS_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=0.5
V_u3_V25         u3_N17183953 0 .4
V_u3_V29         u3_N17188417 0 1.6
X_u3_U48         VOUT u3_N17181738 u3_N171817493 u3_VOUTG1P6 COMPHYS_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=0.5
G_u3_ABMII2         u3_UV_THRES 0 VALUE { IF(V(u3_VIN_UVLO)>0.5,1u,0)    }
X_u3_U107         u3_RAMP u3_N17183886 u3_N17183930 COMP_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=0.5
E_u3_ABM24         u3_N17195216 0 VALUE { IF(V(VOUT)<=0.8,0,V(VOUT))    }
V_u3_V31         u3_N17188830 0 0.75
X_u3_U86         GATE_N u3_N17181671 BUF_DELAY_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5 DELAY=3n
X_u3_H6    SW_INT u3_N17182368 u3_ISENSE_L 0 DRIVER_u3_H6
X_u3_H4    SW_INT u3_SW_NODE u3_ISENSE_U 0 DRIVER_u3_H4
M_u3_M1         VOUT u3_N17181984 u3_N17181906 u3_N17181906 PMOS_SIMPLE
+ L=550u
+ W={110900000u/40}
R_u3_R3         u3_N17196120 u3_UV_THRES  100k TC=0,0
X_u3_S4    u3_SW_P 0 u3_SW_NODE VOUT DRIVER_u3_S4
V_u3_V24         u3_N17183886 0 .5
V_u3_V20         u3_N17181738 0 1.6
X_u3_U116         u3_VOUTG1P6 PT_CTL u3_N17182865 OR2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
X_u3_U18         u3_OSC_SET u3_OSC_R u3_OSC_EN u3_OSC_INV srlatchrhp_basic_gen
+  PARAMS: VDD=1 VSS=0 VTHRESH=0.5
X_u3_U84         GATE_P u3_N17182440 BUF_DELAY_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5 DELAY=3n
R_u3_R1         u3_N17195216 u3_N17181984  100
G_u3_ABMII1         u3_N17183729 u3_RAMP VALUE { if(V(u3_OSC_EN) >0.5, 1u,0)
+  }
X_u3_U80         GATE_N u3_N17181671 u3_GATE_N_INT AND2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
X_u3_U13         0 SW_INT d_d1 PARAMS:
V_u3_V1         u3_N17196120 0 550m
X_u3_U117         u3_RAMP u3_N17183729 d_d1 PARAMS:
X_u3_U108         u3_OSC_INV u3_N17183762 u3_N17183905 OR2_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
V_u3_V9         u3_N17181509 u3_SW_NODE -0.8
X_u3_U16         0 SW_INT d_d1 PARAMS:
X_u3_U120         u3_VINP75 u3_N17188700 u3_OSC_SET AND2_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
C_u3_C10         u3_RAMP 0  1p
C_u3_C11         u3_N17181984 0  1n
V_u3_V19         u3_N171817493 0 100m
X_u3_U3         VIN_INT u3_UV_THRES u3_N17196052 COMP_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5
X_u3_U14         u3_N17181509 VOUT d_d2 PARAMS:
X_u3_U123         u3_GATE_N_INT u3_VIN_UVLO u3_VOUTG1P6 u3_SW_N AND3_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
X_u3_U118         u3_GATE_P_INT u3_VIN_UVLO u3_N17182865 u3_SW_P AND3_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
V_u3_V28         u3_N17188372 0 99m
X_u3_S7    u3_N17183905 0 u3_RAMP 0 DRIVER_u3_S7
E_u2_ABM22         u2_ILIMIT_VAL 0 VALUE { {IF(V(u2_N17393817)>0.5,
+  ILIMIT,0.85*ILIMIT)}    }
V_u2_V28         u2_N17397448 0 100m
E_u2_ABM23         u2_VSS 0 VALUE { {if( SS< 0.5,MIN(V(u2_N17415427),1.24),
+  1.24)}    }
C_u2_C3         COMP 0  100f IC={500m*SS} TC=0,0
R_u2_R9         u2_N17392793 u2_REF  0.3k
V_u2_V10         u2_N17392819 0 3
E_u2_E2         u2_N17415522 0 FB 0 1
R_u2_R11         FB u2_N17395887  500k
X_u2_U79         u2_ERR_AMP_1 u2_CL d_d PARAMS:
X_u2_U122         u2_N17421867 COMP_OUT BUF_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
G_u2_ABM2I3         u2_REF 0 VALUE {
+  LIMIT(((V(u2_ERR_AMP_1)-V(u2_N17393480))*50u),0,15u)    }
E_u2_EDUMMY         u2_N17392838 0 u2_SENSE 0 1
X_u2_U119         VOUT u2_N17397493 u2_N17397448 u2_BOOST_OP_START
+  COMPHYS_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=0.5
X_u2_U73         COMP u2_N17392819 d_d1 PARAMS:
C_u2_C6         0 u2_N17395887  .1p  TC=0,0
R_u2_R5         u2_N17393956 u2_ERR_AMP_1  600k
R_u2_R4         0 u2_ERR_AMP_1  100Meg
C_u2_C9         u2_FBSAMPLE 0  0.1m
X_u2_H1    u2_N17393309 0 u2_N17393255 0 CONTROL_u2_H1
X_u2_S3    u2_DISCH u2_FBSAMPLE u2_N17415427 u2_FBSAMPLE CONTROL_u2_S3
E_u2_ABM25         u2_N17421854 0 VALUE { if( V(COMP)>
+ V(u2_N17420454), 1,0)   }
X_u2_U32         EN_CTL u2_N17393058 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
V_u2_V29         u2_N17397493 0 1.6
G_u2_ABM2I7         0 u2_SENSE VALUE { LIMIT(((V(u2_N17393255)-V(0))),0,10m)
+  }
E_u2_ABM24         u2_CL 0 VALUE { {V(u2_ILIMIT_VAL)* ISENSE_GAIN/(IEA_GAIN)
+  +0.5}    }
R_u2_R13         u2_N17421854 u2_COMP_NEW  1
X_u2_U80         u2_N17393058 u2_N17392951 u2_N17393072 AND2_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
C_u2_C2         u2_ERR_AMP_1 0  100f IC={500m*SS} TC=0,0
R_u2_R15         u2_N17392838 u2_IND_SENSE  10
G_u2_ABMII1         u2_N17393309 0 VALUE { if(V(COMP_OUT)>0.5,1u,0)    }
E_u2_ABM21         u2_N17392888 0 VALUE { IF(V(u2_PG11)<0.5,0,1)    }
R_u2_R10         0 u2_SENSE  50k TC=0,0
C_u2_C5         u2_FBSAMPLE u2_N17415427  10p IC=0 TC=0,0
R_u2_R12         u2_COMP_NEW u2_N17421867  {60/0.693}
E_u2_ABM26         u2_N17420271 0 VALUE { {if( V(COMP_OUT) <
+ 0.5, V(u2_IND_SENSE), V(u2_IND_SENSE) - COMP_CURR_HYSTER)}   }
X_u2_U33         u2_BOOST_OP_START u2_N17392951 INV_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
X_u2_U69         COMP_OUT COMP_INV INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_u2_H2    u2_N17393146 SW_INT ISENSE 0 CONTROL_u2_H2
C_u2_C13         0 u2_IND_SENSE  1n  TC=0,0
V_u2_V2         u2_N17393480 0 0.5
X_u2_U37         u2_N17392888 u2_N17393072 u2_N17393817 N17393906
+  srlatchrhp_basic_gen PARAMS: VDD=1 VSS=0 VTHRESH=0.5
R_u2_R14         u2_N17420271 u2_N17420454  1
C_u2_C7         u2_N17392984 0  0.1p IC={500m*SS} TC=0,0
X_u2_U72         u2_N173930791 u2_ERR_AMP_1 d_d1 PARAMS:
X_u2_S4    u2_BOOST_OP_START 0 u2_FBSAMPLE u2_N17415522 CONTROL_u2_S4
C_u2_C1         u2_N17393956 0  40p IC={500m*SS} TC=0,0
V_u2_V3         u2_N173930791 0 0.5
X_u2_U71         0 COMP d_d1 PARAMS:
X_u2_F1    SW u2_N17393146 0 u2_N17393309 CONTROL_u2_F1
G_u2_ABM2I2         0 COMP VALUE {
+ {LIMIT(((V(u2_ERR_AMP_1)-V(u2_N17393480))*IEA_GAIN),-100u,200u)}    }
E_u2_E1         u2_N17392793 0 VALUE {
+  IF(V(u2_BOOST_OP_START)>0.5,V(u2_VSS),V(FB)) }
G_u2_ABM2I1         0 u2_N17392984 VALUE {
+  LIMIT((V(u2_REF)-V(u2_N17395887))*5u,-100n,2u)    }
R_u2_R8         u2_ERR_AMP_1 u2_N17392984  2Meg
C_u2_C12         0 u2_N17420454  1n  TC=0,0
G_u2_ABMII2         0 u2_N17415427 VALUE { IF(V(u2_BOOST_OP_START)>0.5 ,10n,0)
+    }
R_u2_R6         0 COMP  50k
C_u2_cc         0 u2_PG11  1u  TC=0,0
C_u2_C11         0 u2_COMP_NEW  1n  TC=0,0
R_u2_rr         PG u2_PG11  {50/0.693}
C_u2_C10         0 u2_N17421867  1n  TC=0,0
.ENDS
*$
.PARAM  vout_set=5 rdson_low=150m isense_gain=36u iea_gain=200u rdson_hi=750m
+  comp_curr_hyster=340m ilimit=1.8 passthr_en=0 vin_uvlo=0.7

.subckt TOFF_MIN_UTOFF_S1 1 2 3 4
S_UTOFF_S1         3 4 1 2 _UTOFF_S1
RS_UTOFF_S1         1 2 1G
.MODEL         _UTOFF_S1 VSWITCH Roff=1e6 Ron=1.0 Voff=0.25 Von=0.75
.ends TOFF_MIN_UTOFF_S1

.subckt TOFF_MIN_UTOFF_S2 1 2 3 4
S_UTOFF_S2         3 4 1 2 _UTOFF_S2
RS_UTOFF_S2         1 2 1G
.MODEL         _UTOFF_S2 VSWITCH Roff=1e6 Ron=1.0 Voff=0.25 Von=0.75
.ends TOFF_MIN_UTOFF_S2

.subckt BURST_ENABLE_U5_S18 1 2 3 4
S_U5_S18         3 4 1 2 _U5_S18
RS_U5_S18         1 2 1G
.MODEL         _U5_S18 VSWITCH Roff=1e9 Ron=450m Voff=0.8 Von=0.2
.ends BURST_ENABLE_U5_S18

.subckt TPS613222_S1 1 2 3 4
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH Roff=1e9 Ron=1m Voff=0.0V Von=1.0V
.ends TPS613222_S1

.subckt DRIVER_u3_S6 1 2 3 4
S_u3_S6         3 4 1 2 _u3_S6
RS_u3_S6         1 2 1G
.MODEL         _u3_S6 VSWITCH Roff=1e10 Ron=4.5 Voff=0.2 Von=0.8
.ends DRIVER_u3_S6

.subckt DRIVER_u3_S3 1 2 3 4
S_u3_S3         3 4 1 2 _u3_S3
RS_u3_S3         1 2 1G
.MODEL         _u3_S3 VSWITCH Roff=1e10 Ron={Rdson_low} Voff=0.2 Von=0.8
.ends DRIVER_u3_S3

.subckt DRIVER_u3_H6 1 2 3 4
H_u3_H6         3 4 VH_u3_H6 1
VH_u3_H6         1 2 0V
.ends DRIVER_u3_H6

.subckt DRIVER_u3_H4 1 2 3 4
H_u3_H4         3 4 VH_u3_H4 1
VH_u3_H4         1 2 0V
.ends DRIVER_u3_H4

.subckt DRIVER_u3_S4 1 2 3 4
S_u3_S4         3 4 1 2 _u3_S4
RS_u3_S4         1 2 1G
.MODEL         _u3_S4 VSWITCH Roff=1e12 Ron={Rdson_hi} Voff=0.4 Von=0.6
.ends DRIVER_u3_S4

.subckt DRIVER_u3_S7 1 2 3 4
S_u3_S7         3 4 1 2 _u3_S7
RS_u3_S7         1 2 1G
.MODEL         _u3_S7 VSWITCH Roff=1e9 Ron=1.0m Voff=.4 Von=.6
.ends DRIVER_u3_S7

.subckt CONTROL_u2_H1 1 2 3 4
H_u2_H1         3 4 VH_u2_H1 1
VH_u2_H1         1 2 0V
.ends CONTROL_u2_H1

.subckt CONTROL_u2_S3 1 2 3 4
S_u2_S3         3 4 1 2 _u2_S3
RS_u2_S3         1 2 1G
.MODEL         _u2_S3 VSWITCH Roff=1e9 Ron=1.0 Voff=0.0V Von=1.0V
.ends CONTROL_u2_S3

.subckt CONTROL_u2_H2 1 2 3 4
H_u2_H2         3 4 VH_u2_H2 1
VH_u2_H2         1 2 0V
.ends CONTROL_u2_H2

.subckt CONTROL_u2_S4 1 2 3 4
S_u2_S4         3 4 1 2 _u2_S4
RS_u2_S4         1 2 1G
.MODEL         _u2_S4 VSWITCH Roff=1e9 Ron=1m Voff=0.75 Von=0.25
.ends CONTROL_u2_S4

.subckt CONTROL_u2_F1 1 2 3 4
F_u2_F1         3 4 VF_u2_F1 {ISENSE_GAIN}
VF_u2_F1         1 2 0V
.ends CONTROL_u2_F1
*$
************************ BASIC COMPONENTS *******************************
.SUBCKT OR2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  |
+ V(B) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS OR2_BASIC_GEN
*$
.SUBCKT BUF_DELAY_BASIC A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 DELAY = 10n
E_ABMGATE1    YINT1 0 VALUE {{IF(V(A) > {VTHRESH} ,
+ {VDD},{VSS})}}
RINT YINT1 YINT2 1
CINT YINT2 0 {DELAY*1.3}
E_ABMGATE2    YINT3 0 VALUE {{IF(V(YINT2) > {VTHRESH} ,
+ {VDD},{VSS})}}
RINT2 YINT3 Y 1
CINT2 Y 0 1n
.ENDS BUF_DELAY_BASIC
*$
.SUBCKT INV_DELAY_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 DELAY = 10n
E_ABMGATE1    YINT1 0 VALUE {{IF(V(A) > {VTHRESH} ,
+ {VDD},{VSS})}}
RINT YINT1 YINT2 1
CINT YINT2 0 {DELAY*1.3}
E_ABMGATE2    YINT3 0 VALUE {{IF(V(YINT2) > {VTHRESH} ,
+ {VSS},{VDD})}}
RINT2 YINT3 Y 1
CINT2 Y 0 1n
.ENDS INV_DELAY_BASIC_GEN
*$
.SUBCKT COMP_BASIC_GEN INP INM Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABM Yint 0 VALUE {IF (V(INP) >
+ V(INM), {VDD},{VSS})}
R1 Yint Y 1
C1 Y 0 1n
.ENDS COMP_BASIC_GEN
*$
.SUBCKT COMPHYS_BASIC_GEN INP INM HYS OUT PARAMS: VDD=1 VSS=0 VTHRESH=0.5
EIN INP1 INM1 INP INM 1
EHYS INP1 INP2 VALUE { IF( V(1) > {VTHRESH},-V(HYS),0) }
EOUT OUT 0 VALUE { IF( V(INP2)>V(INM1), {VDD} ,{VSS}) }
R1 OUT 1 1
C1 1 0 10n
RINP1 INP1 0 1K
.ENDS COMPHYS_BASIC_GEN
*$
.SUBCKT AND3_BASIC_GEN A B C Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &
+ V(B) > {VTHRESH} &
+ V(C) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS AND3_BASIC_GEN
*$
.SUBCKT AND2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  &
+ V(B) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS AND2_BASIC_GEN
*$
.SUBCKT INV_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} ,
+ {VSS},{VDD})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS INV_BASIC_GEN
*$
.SUBCKT BUF_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH} ,
+ {VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS BUF_BASIC_GEN
*$
**Reset has higher priority in this latch
.SUBCKT SRLATCHRHP_BASIC_GEN S R Q QB PARAMS: VDD=1 VSS=0 VTHRESH=0.5
GQ 0 Qint VALUE = {IF(V(R) > {VTHRESH},-5,IF(V(S)>{VTHRESH},5, 0))}
CQint Qint 0 1n
RQint Qint 0 1000MEG
D_D10 Qint MY5 D_D1
V1 MY5 0 {VDD}
D_D11 MYVSS Qint D_D1
V2 MYVSS 0 {VSS}
EQ Qqq 0 Qint 0 1
X3 Qqq Qqqd1 BUF_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH}
RQq Qqqd1 Q 1
EQb Qbr 0 VALUE = {IF( V(Q) > {VTHRESH}, {VSS},{VDD})}
RQb Qbr QB 1
Cdummy1 Q 0 1n
Cdummy2 QB 0 1n
.IC V(Qint) {VSS}
.MODEL D_D1 D( IS=1e-15 TT=10p Rs=0.05 N=.1  )
.ENDS SRLATCHRHP_BASIC_GEN
*$
.SUBCKT CESR IN OUT
+ PARAMs:  C=100u ESR=0.01 X=2 IC=0
C	IN 1  {C*X} IC={IC}
RESR	1 OUT {ESR/X}
.ENDS CESR
*$
.SUBCKT LDCR IN OUT
+ PARAMs:  L=1u DCR=0.01 IC=0
L	IN 1  {L} IC={IC}
RDCR	1 OUT {DCR}
.ENDS LDCR
*$
.SUBCKT BUF_DELAY_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 DELAY = 10n
E_ABMGATE1    YINT1 0 VALUE {{IF(V(A) > {VTHRESH} ,
+ {VDD},{VSS})}}
RINT YINT1 YINT2 1
CINT YINT2 0 {DELAY*1.3}
E_ABMGATE2    YINT3 0 VALUE {{IF(V(YINT2) > {VTHRESH} ,
+ {VDD},{VSS})}}
RINT2 YINT3 Y 1
CINT2 Y 0 1n
.ENDS BUF_DELAY_BASIC_GEN
*$
.SUBCKT OR3_BASIC_GEN A B C Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_ABMGATE    YINT 0 VALUE {{IF(V(A) > {VTHRESH}  |
+ V(B) > {VTHRESH} |
+ V(C) > {VTHRESH},{VDD},{VSS})}}
RINT YINT Y 1
CINT Y 0 1n
.ENDS OR3_BASIC_GEN
*$
.MODEL PMOS_SIMPLE PMOS
*$
.subckt d_d 1 2
d1 1 2 dd
.model dd d
+ is=1e-015
+ n=0.01
+ tt=1e-011
.ends d_d
*$
.SUBCKT D_D2 1 2
d1 1 2 dd1
.model dd1 d
+ is=1e-019
+ tt=1e-011
+ rs=1.4
+ n=.1
.ENDS D_D2
*$
.SUBCKT D_D1 1 2
d1 1 2 dd1
.model dd1 d
+ is=1e-019
+ tt=1e-011
+ rs=0.05
+ n=0.001
.ENDS D_D1
*$
